US07812022B2
Step B: 2,2,2-Trifluoro-N-[2-(methylsulfonyl)ethyl]-N-[(3-nitrophenyl)methyl]-acetamide
To a solution of [2-(methylsulfonyl)ethyl][(3-nitrophenyl)methyl]amine (0.70 g, 2.7 mmol) in DCM (25 mL) was added diisopropylethylamine (710 μL, 4.0 mmol) and TFAA (424 μL, 3.0 mmol). The reaction was stirred at rt for 1 h, then diluted with 25 mL DCM, washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered, and adsorbed onto silica. The crude product was purified by column chromatography to generate the title compound in 92% yield (0.88 g, 2.5 mmol). 1H NMR (400 MHz, CDCl3): δ 8.11-8.25 (m, 2H), 7.58-7.63 (m, 2H), 4.91 (s, 2H), 3.78 (t, J=6.4 Hz, 2H), 3.36 (t, J=6.3 Hz, 2H), 2.99 (s, 3H). MS (ESI) m/z=355 [M+H]+.

reactant | [2-(methylsulfonyl)ethyl][(3-nitrophenyl)methyl]amine | 2.7 mmol, 0.70 g | CS(=O)(=O)CCNCC1=CC(=CC=C1)[N+](=O)[O-] | C10H14N2O4S
reactant | diisopropylethylamine | 4.0 mmol, 710 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TFAA | 3.0 mmol, 424 μL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-[2-(methylsulfonyl)ethyl]-N-[(3-nitrophenyl)methyl]-acetamide | 92% yield | FC(C(=O)N(CC1=CC(=CC=C1)[N+](=O)[O-])CCS(=O)(=O)C)(F)F | C12H13F3N2O5S
